US03950425
2. 2-hydroxy-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine
6.2 g of 2-keto-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine are added to a suspension of 3.7 g of lithiumaluminiumhydride in 300 ml of dry ether. After refluxing for 2 hours 14.8 ml of water are added carefully. The suspension obtained is filtered off and after that the filtrate is dried and evaporated to dryness.

reactant | 2-keto-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine | 6.2 g | O=C1CC2=C(C3=C(OC4=C2C=CC=C4)C=CC=C3)CC1 | C18H14O2
reactant | lithiumaluminiumhydride | 3.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 14.8 ml | O | H2O
solvent | ether | 300 ml | CCOCC | C4H10O
product | 2-hydroxy-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine | OC1CC2=C(C3=C(OC4=C2C=CC=C4)C=CC=C3)CC1 | C18H16O2
